US05821261
Step E: (4R)-1-(tert-Butyloxycarbonyl)-4-amino-L-Proline tert-Butyl Ester
A solution (4R)-1-(tert-butyloxycarbonyl)-4-azido-L-proline tert-butyl ester (191 mg, 0.611 mmol) in 90% ethanol (15 mL) was hydrogenated in the presence of 10% palladium-on-charcoal (40 mg) under a balloon atmosphere of hydrogen gas for one hour. The catalyst was removed by filtration through Celite, the filter washed with methanol, and the combined filtrate and washings evaporated. The title compound was obtained as a colorless oil after drying under high vacuum; yield 177 mg.

reactant | (4R)-1-(tert-butyloxycarbonyl)-4-azido-L-proline tert-butyl ester | 0.611 mmol, 191 mg | C(C)(C)(C)OC([C@H]1N(C[C@@H](C1)N=[N+]=[N-])C(=O)OC(C)(C)C)=O | C14H24N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 40 mg | [Pd] | Pd
product | (4R)-1-(tert-Butyloxycarbonyl)-4-amino-L-Proline tert-Butyl Ester | C(C)(C)(C)OC([C@H]1N(C[C@@H](C1)N)C(=O)OC(C)(C)C)=O | C14H26N2O4
